Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
BRBPR 
 
Major Surgical or Invasive Procedure:
___ Colonoscopy
___ Exam under anesthesia with a ___ biopsy

 
History of Present Illness:
Ms. ___ is a ___ year-old woman with AFib on coumadin, 
myeloma, HTN, and obesity who who presents to ___ ED with 
BRBPR.  
At baseline, the patient has 1 bowel movement a day that is 
soft/hard. Approximately 1 week ago, the patient had 3 days of 
constipation in the setting of not taking home stool softeners. 
Her next bowel movement occurred with significant straining, 
followed by significant pain with defecation and bright red 
blood staining in the toilet bowel. Since then, the patient has 
had continued abdominal cramping, pain with defecation and 
bright red blood in the toilet bowel with slight soft brown 
stool. Due to the fear of pain associated with BMs, the patient 
has stopped eating for the last ___ days, only taking in "some 
broth." In this setting, she endorses some increased weakness 
and 1 episode of dark stools ("looked like spinach") but 
otherwise denies fever, chills, chest pain, SOB, abdominal pain. 
 

In the ED initial vitals were 99.9 86 142/92 18 100%RA. Labs 
were significant for Chem-10 with Cr 1.2 (baseline Cr 1.___ 
___ and hypophos to P 1.2, CBC with stable anemia H/H 
___ (baseline Hct ___, Trop 0.01, lactate 2.5, UA with 
few bacteria, 73 WBC, 57 RBC, large leuk, neg nitrites. 30 
minutes after arrival to ED, the patient triggered for 
hypotension to sBP 90/71. The patient was bolused 3L NS with 
imrpvoement in sBP to low 100s. No other 
medications/interventions in the ED. The patient is now admitted 
to Medicine for further monitoring. Vitals prior to transfer 
were 99.1 108 102/68 18 100% RA.  

On the floor, VS 98.9 112/56 106 20 99%RA and patient reports 
that she feels somewhat improved from a weakness standpoint but 
continues to have pain in the rectal region.  
 
Past Medical History:
Hypertension  
Atrial fibrillation on coumadin  
Obesity  
Myeloma    
Osteoarthritis of right knee  
CKD stage 3 (baseline Cr 1.4) 
UPJ obstruction s/p stent placement ___ c/b persistent 
Klebsiella bacteruria  
? Perirectal cyst drainage in 1980s 
 
Social History:
___
Family History:
Her parents died in their ___ or ___ of "old age."  Her parents 
and multiple siblings have hypertension.  There is no family 
history of significant arrhythmia or premature coronary disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals: 98.9 112/56 106 20 99%RA  
GENERAL: Elderly woman, lying in bed, NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, dry MM, good 
dentition  
NECK: Supple neck, no JVD  
CARDIAC: RRR, S1/S2, faint SEM, no gallops or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: Nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
RECTAL: Hyperpigmentation surrounding rectal area, no visible 
external hemorrhoid. Area internal to sphincter with friable 
mucosa, trace brown stool slightly streaked with blood 
(guaiac+), and fissure in posterior midline  
EXTREMITIES: Trace edema, no cyanosis, clubbing, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM
Vitals: 98.4  122/66  93  18  100%
GENERAL: Elderly woman, appears comfortable, bundled in blankets
CARDIAC: RRR, S1/S2, faint SEM, no gallops or rubs  
LUNG: CTAB
ABDOMEN: Soft, no tenderness to palpation, but hard mass 
appreciated in lower abdomen    
EXTREMITIES: Trace edema, no cyanosis, clubbing, moving all 4 
extremities with purpose   
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes
 
Pertinent Results:
ADMISSION LABS:
___ 04:35PM BLOOD WBC-4.1 RBC-3.72* Hgb-11.0* Hct-32.5* 
MCV-87 MCH-29.5 MCHC-33.8 RDW-20.8* Plt ___
___ 04:35PM BLOOD Neuts-69.2 Lymphs-16.1* Monos-12.3* 
Eos-2.1 Baso-0.3
___ 04:35PM BLOOD ___ PTT-20.7* ___
___ 04:35PM BLOOD Glucose-92 UreaN-17 Creat-1.2* Na-144 
K-4.1 Cl-106 HCO3-25 AnGap-17
___ 04:35PM BLOOD cTropnT-0.01
___ 04:35PM BLOOD Calcium-8.2* Phos-1.2*# Mg-1.8
___ 04:44PM BLOOD Lactate-2.5*

INTERVAL LABS:

___ 05:45AM BLOOD Ret Aut-1.0*
___ 06:50AM BLOOD VitB12-597
___ 05:45AM BLOOD Folate-6.1
___ 05:30AM BLOOD calTIBC-165* Ferritn-423* TRF-127*
___ 05:45AM BLOOD PEP-AWAITING F IgG-485* IgA-65* IgM-20* 
IFE-PND
___ 05:45AM BLOOD CEA-20*

MICROBIOLOGY:

Time Taken Not Noted     Log-In Date/Time: ___ 8:34 pm
      URINE      TAKEN FROM ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH FECAL
      CONTAMINATION. 

___ 7:30 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

RADIOLOGY:
___ KUB
IMPRESSION:  
No bowel obstruction.  Moderate amount of colonic stool.  No 
free air. 

___ MRI Pelvis
IMPRESSION:  
1.  Right anal mass encompassing the right aspect of the 
internal sphincter, extending approximately 7 cm into the lower 
rectum with suspected invasion through the left anterior aspect 
of the external sphincter into the mesorectal fat. 
2.  Small hematoma along the left aspect of the hysterectomy 
vaginal cuff. 

___ CT Abd/Pelvis
IMPRESSION: 
1. Anal carcinoma is not well characterized on this CT 
examination therefore see MRI done same day for further 
characterization. 
2. The right kidney is lobulated with areas of thinned cortex. 
There is 
proximal ureteral dilation with double-J stent and abnormal 
appearance of the bladder, likely postsurgical.  Please 
correlate with patient's surgical history. No hydronephrosis is 
noted. 
3. Heterogeneous liver attenuation without focal lesions, please 
correlate with liver function tests. 
4. Compression fracture of the superior endplate of L2 and L3 of 
indeterminate age, although sclerosis at L2 suggests chronicity. 


___ CT Chest
IMPRESSION:  
Motion limited exam. 
No evidence of pulmonary metastases. 
Small bilateral layering non-hemorrhagic pleural effusions. 
Dilated main pulmonary artery suggests pulmonary arterial 
hypertension. 
Thyroid nodules measuring up to 1.5 cm in the isthmus warrant 
dedicated 
ultrasound for further evaluation. 
Moderate cardiomegaly with predominantly biatrial enlargement. 

PATHOLOGY:
SURGICAL PATHOLOGY REPORT - Final
PATHOLOGIC DIAGNOSIS:
1. Perianal lesion, biopsy:
-Mucinous adenocarcinoma; see note.
2. Perianal lesion, biopsy:
-Mucinous adenocarcinoma; see note.
-Note: The tumor shows patchy signet-ring differentiation 
consistent a high-grade tumor. Tumor cells are positive for CK7 
(patchy), CK20, and CDX-2. The differential diagnosis includes 
primary anal adenocarcinoma and primary rectal adenocarcinoma 
with secondary involvement of the anus.

DISCHARGE LABS:

___ 10:50AM BLOOD WBC-2.5* RBC-3.02* Hgb-9.0* Hct-26.8* 
MCV-89 MCH-29.7 MCHC-33.4 RDW-20.4* Plt ___
___ 10:50AM BLOOD ___ PTT-30.3 ___
___ 10:50AM BLOOD Glucose-122* UreaN-8 Creat-0.9 Na-142 
K-3.4 Cl-108 HCO3-24 AnGap-13
___ 10:50AM BLOOD Calcium-8.5 Phos-1.6* Mg-2.___ with AFib on coumadin, myeloma, HTN, and obesity who who 
presents to ___ ED with BRBPR found to have newly diagnosed 
anal adenocarcinoma.

# Anal adenocarcinoma: Patient initially presented with a 
history of changes in bowel habits and some bright red blood per 
rectum. Initial concern was for anal fissure, but after being 
seen by GI, they recommended evaluation by Colon and Rectal 
Surgery. They agreed that her lesion was concerning for 
malignancy, so she underwent EUS/biopsy with colorectal surgery 
___, which revealed lesion concerning for anal squamous cell 
caricnoma. Baseline CEA 20. Staging scans showed local disease 
without suspicious regional LAD, and no distant mets. She also 
underwent colonoscopy which showed no evidence of disease beyond 
the known anal/rectal lesion.

# Anal/rectal pain: Patient's pain was controlled initially with 
tylenol and dilaudid, then transitioned to tylenol and 
oxycodone. She was placed on an aggressive bowel regimen to keep 
her bowel movements soft so as not to cause additional pain. Her 
bowel regimen included docusate, colace and miralax, as well as 
being advised to increase and regulate her fiber intake. She was 
also given nitroglycerin 0.02% cream, 2% lidocaine ointment, 
Tuck's ointment and perineum care recommendations from wound 
care nursing.

# Pancytopenia: Patient with downtrending thrombocytopenia, also 
with neutropenia and stable anemia noted on admission. She was 
midly neutropenic. This was thought to be a combination of 
lenalidomide effect combined with anemia of chronic disease. No 
bony metastases were seen on initial cancer staging to implicate 
bone marrow spread. Heme/Onc consult from ___ recommended that 
this be followed as an outpatient but did not require inpatient 
work-up.

# IgG Myeloma: Patient with longstanding IgG MM, followed by 
___ Oncology for which she is on lenolidamide days ___ of 28 
days and dexamethasone 1x/week on weeks when she takes 
lenolidamide. The patient completed her last 3 weeks of Revlamid 
___. Also received Zometa ___. 
Lenolidamide/dexamethasone was held while patient was admitted 
due to risk of poor wound healing from biopsy. She was seen by 
Heme/Onc Consult from ___ who recommended following her 
pancytopenia and following up with her oncologist, Dr. ___ 
___ as an outpatient.

# Asymptomatic bacteruria: Patient has a history of chronic 
Klebsiella bacteriuria as a complication of UPJ obstruction s/p 
stent placement in ___. Patient was asymptopmatic from this 
during her hospitalization. She was monitored for active 
symptoms of UTI. 

# AFib on coumadin: Stable during admission. Did require 
adminsitration of FFP before biopsy and colonoscopy with FFP. 
Otherwise, was continued on home metoprolol, diliazem and 
warfarin. 

# Hypertension: Was relatively hypotensive initially, which 
prompted the team to hold lasix. Near the end of her hosptial 
course, she began to endorse some leg swelling, so we restarted 
furosemide ___. She was continued on diltiazem and 
metoprolol for the duration of her hospital stay as per above.

# CKD Stage 3: Cr 1.2 on admission, within recent baseline of 
1.4. Down to 0.9 at discharge.

TRANSITIONAL ISSUES:
- Patient is not being discharged on Bactrim since she is not 
currently taking dexamethasone.
- Patient should follow-up with Dr. ___ as an outpatient who can 
then refer to Dr. ___ Colon & Rectal Surgery 
Multidisciplinary follow-up.
- Continue bowel regimen to prevent constipation and subsequent 
painful bowel movements
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lenalidomide 15 mg PO DAILY ON DAYS ___. Dexamethasone 20 mg PO 1X/WEEK (TH) on weeks taking 
lenalidomide 
3. Clarithromycin 250 mg PO DAILY 
4. Diltiazem Extended-Release 120 mg PO DAILY 
5. Metoprolol Tartrate 100 mg PO TID 
6. Vitamin D 1000 UNIT PO DAILY 
7. Potassium Chloride 20 mEq PO DAILY 
8. Furosemide 80 mg PO DAILY 
9. Warfarin 2.5 mg PO DAILY16 

 
Discharge Medications:
1. Diltiazem Extended-Release 120 mg PO DAILY 
2. Metoprolol Tartrate 100 mg PO TID 
3. Potassium Chloride 20 mEq PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. Warfarin 2.5 mg PO DAILY16 
6. Acetaminophen 325-650 mg PO Q6H:PRN pain 
7. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg ___ capsule(s) by mouth Twice daily 
Disp #*30 Capsule Refills:*0
8. nitroglycerin 0.2 % rectal QID 
Please apply to anorectal area after bowel movements as needed.  

RX *nitroglycerin [Rectiv] 0.4 % (w/w) 1 ointment(s) rectally 
four times a day Refills:*0
9. Psyllium 1 PKT PO DAILY 
RX *psyllium  1 packet(s) by mouth Daily Disp #*30 Packet 
Refills:*0
10. Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*60 Tablet Refills:*0
11. Tucks Hemorrhoidal Oint 1% 1 Appl PR SIX TIMES DAILY PRN 
Anorectal pain 
RX *pramoxine-mineral oil-zinc [Tucks] 1 %-12.5 % 1 ointment(s) 
rectally four times a day Refills:*0
12. Dexamethasone 20 mg PO 1X/WEEK (TH) on weeks taking 
lenalidomide 
13. Furosemide 80 mg PO DAILY 
14. Lenalidomide 15 mg PO DAILY ON DAYS ___. Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 1 TSBP by 
mouth Daily Refills:*0
16. Lidocaine Jelly 2% 1 Appl TP BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Anal adenocarcinoma
Hypotension
Atrial fibrillation
Multiple Myeloma
pancytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your recent stay at 
___. You were admitted after seeing some blood in your stool 
and because your blood pressure was low.

Upon further investgiation, you were found to have a mass around 
your anus that was biopsied by colorectal surgery and 
unfortuantely found to represent a cancer. You had some scans 
done to see if the cancer had spread, which it has not. You 
underwent a colonoscopy as well to look at the rest of your 
colon, which did not show any additional lesions.

You should make sure to eat lots of fiber to keep your bowel 
movements regular and use stool softeners to keep them soft. 
Avoid straining when you are having a bowel movement. Use the 
medications, ointments and suppositories prescribed to help with 
your pain. 

Please follow-up with your doctors as below. You should 
follow-up with Dr. ___ also with Colon & Rectal Surgery in 
their ___ where you will see different 
kinds of doctors to ___ up with a plan for the next steps.

It was a pleasure taking care of you. We wish you the best!
- Your ___ Care Team
 
Followup Instructions:
___